US06906053B2
2-(2,5-dioxo-4-imidazolidinyl)-N-{4-[(2-methyl-4-quinolinyl)methoxy]phenyl}propanamide
2-(4-hydantoinyl)propionic acid (50 mg, 0.30 mmol) and 4-[(2-methyl-4-quinolinyl)methoxy]-aniline bis-HCl salt (101 mg, 0.30 mmol) were coupled using general coupling method A to give 20 mg (13%) of the product hydantoin. MS found: (M+H)+=419.

reactant | 4-[(2-methyl-4-quinolinyl)methoxy]-aniline bis-HCl salt | 0.30 mmol, 101 mg | Cl.Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(N)C=C1
reactant | hydantoin | N1C(=O)NC(=O)C1 | C3H4N2O2
product | 2-(2,5-dioxo-4-imidazolidinyl)-N-{4-[(2-methyl-4-quinolinyl)methoxy]phenyl}propanamide | 20 mg, 13% | O=C1NC(C(N1)C(C(=O)NC1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C)=O | C23H22N4O4
